US08754079B2
4-[4-Fluoro-2-(tetrahydro-cyclopenta[1,3]dioxol-5-yloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide
A mixture of 0.15 g 4-[4-fluoro-2-(tetrahydro-cyclopenta[1,3]dioxol-5-yloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid, 0.045 g 1-(3-aminopropy)pyrrolidine, 0.159 g HATU and 0.097 ml TEA in 15 ml DMF was stirred at rt for 1 hour. The reaction mixture was poured on water, extracted with DCM, dried and filtered. The filtrate was concentrated. The residue was triturated with diisopropylether.

reactant | 4-[4-fluoro-2-(tetrahydro-cyclopenta[1,3]dioxol-5-yloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.15 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)OC2CC1C(OCO1)C2 | C20H18FN3O5S
reactant | 1-(3-aminopropy)pyrrolidine | 0.045 g | NCCCN1CCCC1 | C7H16N2
reactant | HATU | 0.159 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-[4-Fluoro-2-(tetrahydro-cyclopenta[1,3]dioxol-5-yloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | N1(CCCC1)CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CC3C(OCO3)C2)S1)C | C27H32FN5O4S
